US04471045
B. 4-methyl-1-p-tolyl-3-(t-butyldimethylsiloxy)-2-pyrazoline
To a stirred solution under nitrogen of 4-methyl-1-p-tolyl-3-pyrazolidinone (19.0 g, 0.10 mole) and t-butyldimethylsilyl chloride (16.6 g, 0.11 mole) in 200 ml toluene, was added sequentially triethylamine (10.6 g, 0.11 mole), 1,8-diazabicyclo-[5.4.0]-undec-7-ene (0.1 g), and 4-(N,N-dimethylamino)pyridine (0.1 g). The mixture was refluxed for 16 hours, cooled to room temperature and filtered. The salts were washed with ether and the solvents of the combined filtrate were removed under reduced pressure. The resulting residue was treated with 200 ml anhydrous ether, filtered to remove salts, and dried over anhydrous magnesium sulfate. Removal of the solvent yielded 29.8 g (98% yield).

reactant | 4-methyl-1-p-tolyl-3-pyrazolidinone | 0.10 mole, 19.0 g | CC1C(NN(C1)C1=CC=C(C=C1)C)=O | C11H14N2O
reactant | t-butyldimethylsilyl chloride | 0.11 mole, 16.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 0.11 mole, 10.6 g | C(C)N(CC)CC | C6H15N
reactant | 1,8-diazabicyclo-[5.4.0]-undec-7-ene | 0.1 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-(N,N-dimethylamino)pyridine | 0.1 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 4-methyl-1-p-tolyl-3-(t-butyldimethylsiloxy)-2-pyrazoline | 98% yield | CC1C(=NN(C1)C1=CC=C(C=C1)C)O[Si](C)(C)C(C)(C)C | C17H28N2OSi
